US04596819
A solution of 17.43 g of (S)-N-[4-methyl-2-[[(phenylmethoxy)carbonyl]amino]pentyl]glycine, 1,1-dimethylethyl ester in 150 ml of methanol is reduced at 25°, 50 psi using 1 g of 20% palladium on carbon as the catalyst. The filtered solution is treated with 7.84 g of phosphorous acid in 10 ml of ether and the solvent removed under reduced pressure. The residue is partitioned between ether and 10% sodium hydroxide. The aqueous phase is washed five times with ether and the combined ether washes are washed with saturated sodium chloride solution and dried over magnesium sulfate. Removal of the solvent under reduced pressure at 25° gives 10.28 g of crude (S)-N-(2-amino-4-methylpentyl)-glycine, 1,1-dimethylethyl ester. The crude product is sufficiently pure for use in subsequent reactions.

reactant | (S)-N-[4-methyl-2-[[(phenylmethoxy)carbonyl]amino]pentyl]glycine, 1,1-dimethylethyl ester | 17.43 g | CC(C[C@@H](CNCC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)C | C20H32N2O4
reactant | phosphorous acid | 7.84 g | P(O)(O)O | H3O3P
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ether | 10 ml | CCOCC | C4H10O
product | (S)-N-(2-amino-4-methylpentyl)-glycine, 1,1-dimethylethyl ester | 10.28 g | N[C@H](CNCC(=O)OC(C)(C)C)CC(C)C | C12H26N2O2
